US06221874B1
1,3-Dibutyl-7-(3-chloro-propane-1-sulfonyl)-8-methyl-3,7-dihydro-purine-2,6-dione
The title compound was prepared according to the procedure of example 3 except that 1,3-dibutyl-8-methyl-3,7-dihydro-purine-2,6-dione was used in place of 1,3-dibutyl-3,7-dihydro-purine-2,6-dione and 3-chloropropanesulfonyl chloride was used in place of methanesulfonyl chloride. Yield: 71%: mp: 76-78° C.; 1H NMR (300 MHz, CDCl3): δ 0.92-0.99 (m, 6H), 1.33-1.42 (m, 4H), 1.57-1.65 (m, 2H), 1.67-1.74 (m, 2H), 2.32-2.41 (m, 2H) 2.74 (s, 3H), 3.69 (t, J=6.2 Hz, 2H), 3.99 (t, J=7.6 Hz, 2H), 4.08 (t, J=7.5 Hz, 2H), 4.23 (t, J=7.5 Hz, 2H); IR (KBr, cm−1): 2959m, 2874m, 1705s, 1620w, 1537m, 1522s, 1485m, 1183s, 1121s, 938m, 751m, 570m; MS (ES) m/z (relative intensity): 419 (M++H, 100).

reactant | 1,3-dibutyl-8-methyl-3,7-dihydro-purine-2,6-dione | C(CCC)N1C(N(C=2N=C(NC2C1=O)C)CCCC)=O | C14H22N4O2
reactant | 3-chloropropanesulfonyl chloride | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | KBr | [K+].[Br-]
product | 1,3-Dibutyl-7-(3-chloro-propane-1-sulfonyl)-8-methyl-3,7-dihydro-purine-2,6-dione | Yield: 71% | C(CCC)N1C(N(C=2N=C(N(C2C1=O)S(=O)(=O)CCCCl)C)CCCC)=O | C17H27ClN4O4S
